US08097759B2
N-[3,5-Bis(trifluoromethyl)phenyl]2-hydroxy-5-(pyrrol-1-yl)benzamide (Compound No. 71)
Using 2-hydroxy-5-(pyrrol-1-yl)benzoic acid and 3,5-bis(trifluoromethyl)-aniline as the raw materials, the same operation as the example 16 gave the title compound.

reactant | 2-hydroxy-5-(pyrrol-1-yl)benzoic acid | OC1=C(C(=O)O)C=C(C=C1)N1C=CC=C1 | C11H9NO3
reactant | 3,5-bis(trifluoromethyl)-aniline | FC(C=1C=C(N)C=C(C1)C(F)(F)F)(F)F | C8H5F6N
product | N-[3,5-Bis(trifluoromethyl)phenyl]2-hydroxy-5-(pyrrol-1-yl)benzamide | Yield: 57.8% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(C1=C(C=CC(=C1)N1C=CC=C1)O)=O)(F)F | C19H12F6N2O2
